US04497817
To a suspension of 2 g of 2-(p-chlorophenyl)-3-formylimidazo[2,1-b]benzothiazole in 100 ml of chloroform and 200 ml of ethanol was added 1 g of sodium borohydride and the mixture was stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure and 900 ml of chloroform was added to the residue. After removing the insoluble materials which formed, the residue was washed with water, dried with anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue obtained was recrystallized from isopropyl alcohol to provide 1.2 g of 2-(p-chlorophenyl)-3-hydroxymethylimidazo[2,1-b]benzothiazole.

reactant | 2-(p-chlorophenyl)-3-formylimidazo[2,1-b]benzothiazole | 2 g | ClC1=CC=C(C=C1)C=1N=C2SC3=C(N2C1C=O)C=CC=C3 | C16H9ClN2OS
reactant | sodium borohydride | 1 g | [BH4-].[Na+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(p-chlorophenyl)-3-hydroxymethylimidazo[2,1-b]benzothiazole | 1.2 g | ClC1=CC=C(C=C1)C=1N=C2SC3=C(N2C1CO)C=CC=C3 | C16H11ClN2OS
